US09315491B2
2-Chloro-5-methoxy-4-pyridin-4-yl-pyrimidine
A mixture of 2,4-dichloro-5-methoxy-pyrimidine (3.0 g, 1.0 eq.), 4-pyridinylboronic acid (2.26 g, 1.1 eq.), Pd(PPh3)2Cl2 (0.58 g, 0.05 eq.), K3PO4—H2O (10.67 g, 3.0 eq.), H2O (3 ml) and 1,4-Dioxane (20.0 ml) was heated at 90° C. and refluxed overnight. The solvent was removed in vacuo, and the residue was extracted with EA and water. The combined organic layers was wash with brine, dried and evaporated in vacuo. The crude was purified by chromatography to give a yellow thick liquid (1.83 g, 49.26%).

reactant | 2,4-dichloro-5-methoxy-pyrimidine | 3.0 g, 1.0 eq. | ClC1=NC=C(C(=N1)Cl)OC | C5H4Cl2N2O
reactant | 4-pyridinylboronic acid | 2.26 g, 1.1 eq. | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | K3PO4 H2O | 10.67 g, 3.0 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+].O
reactant | H2O | 3 ml | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.58 g, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-Dioxane | 20.0 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-5-methoxy-4-pyridin-4-yl-pyrimidine | 1.83 g, 49.26% | ClC1=NC=C(C(=N1)C1=CC=NC=C1)OC | C10H8ClN3O
